US08012976B2
9-(4-Fluorophenyl)-8-(4-(pyrrolidin-2-yl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
Benzyl 2-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)phenyl)pyrrolidine-1-carboxylate (60 mg, 0.107 mmol) was dissolved in distilled methanol (15 mL), and the reaction mixture was stirred at room temperature under an atmosphere of hydrogen in the presence of a catalytic amount of palladium on carbon (11 mg, 0.01 mmol) for 2 hrs. After the reaction was completed, the catalyst was removed by filtration through a pad of Celite, and the solvent was removed under reduced pressure. The residue was purified by preparative TLC (MeOH:DCM=1:10) to give the title compound (5 mg, yield 11%) as a white foam. LC-MS (ESI) m/z: 426(M+1)+H-NMR (400 MHz, CD3OD) δ (ppm): 1.78-1.88 (m, 1H), 1.95-2.08 (m, 2H), 2.24-2.32 (m, 1H), 3.05-3.12 (m, 1H), 3.21-3.27 (m, 1H), 4.17-4.21 (m, 1H), 4.34-4.36 (d, J=8.0 Hz, 1H), 4.75-4.77 (d, J=8.0 Hz, 1H), 6.91-6.95 (m, 2H), 7.09-7.15 (m, 2H), 7.17-7.25 (m, 1H), 7.22-7.25 (m, 1H), 7.29-7.34 (m, 4H), 7.55-7.57 (m, 1H), 7.63-7.67 (m, 1H).

reactant | Benzyl 2-(4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)phenyl)pyrrolidine-1-carboxylate | 0.107 mmol, 60 mg | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)C2N(CCC2)C(=O)OCC2=CC=CC=C2 | C34H29FN4O3
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 0.01 mmol, 11 mg | [Pd] | Pd
product | 9-(4-Fluorophenyl)-8-(4-(pyrrolidin-2-yl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 5 mg, yield 11% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)C2NCCC2 | C26H23FN4O
